US04045560
α-Carboxy-β-(9,10-dihydro-9,10-methano-9-anthryl)-propionic acid was treated with bromine in ether, and the corresponding brominated compound was refluxed in xylene to give α-bromo-β-(9,10-dihydro-9,10-methano-9-anthryl)propionic acid. α-Bromo-β-(9,10-dihydro-9,10-methano-9-anthryl)-propionic acid was treated with thionyl chloride and then with N-benzyl-N-hydroxyethylamine to give α-bromo-β-(9,10-dihydro-9,10-methano-9anthryl)propionic acid N-benzyl-N-hydroxyethylamide, I.R., 3400, 3060, 3045, 2860, 1640, 1360, 1158, 1048, 1012, 698 cm-1.

reactant | α-Carboxy-β-(9,10-dihydro-9,10-methano-9-anthryl)-propionic acid | C(=O)(O)C(C(=O)O)CC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C19H16O4
reactant | bromine | BrBr | Br2
solvent | ether | CCOCC | C4H10O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | α-bromo-β-(9,10-dihydro-9,10-methano-9-anthryl)propionic acid | BrC(C(=O)O)CC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C18H15BrO2
